US06492403B1
A solution of 1 g (3.6 mmol) of 3-(tert-butyl)-1-benzylpyrazole-5-carbonyl chloride (Maybridge, Cornwall, UK) was dissolved in dry acetonitrile (4 mL) and 4.5 mL (9 mmol) of 2 M trimethylsilyldiazomethane in hexanes (Aldrich, Milwaukee, Wis., USA) was added. After stirring 1 h 20 min at room temperature, the mixture was cooled on an ice bath for 5 min. To this, 30% hydrogen bromide in acetic acid (2 mL, 10 mmol) was added dropwise over 15 min. This was stirred an additional 15 minutes on an ice bath. Filtration of the precipitated solid and evaporation of the solvents gave 1-[3-(tert-butyl)-1-benzylpyrazol-5-yl]-2-bromoethan-1-one (1.47 g, quantitive yield) as an orange solid. 1H-NMR (DMSO-d6; 300 MHz) δ7.33-7.06 (m, 5H), 7.08 (s, 1H), 5.64 (s, 2H), 4.57 (s, 2H), 1.28 (s, 9H). Mass spectrum (MALDI-TOF, CHCA matrix, m/z): Calcd. for C16H19N2OBr, 335.1 and 337.1 (M+H), found 335.6 and 337.6.

reactant | 3-(tert-butyl)-1-benzylpyrazole-5-carbonyl chloride | 3.6 mmol, 1 g | C(C)(C)(C)C1=NN(C(=C1)C(=O)Cl)CC1=CC=CC=C1 | C15H17ClN2O
reactant | trimethylsilyldiazomethane | 9 mmol, 2 M, 4.5 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 10 mmol, 2 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 1-[3-(tert-butyl)-1-benzylpyrazol-5-yl]-2-bromoethan-1-one | 1.47 g | C(C)(C)(C)C1=NN(C(=C1)C(CBr)=O)CC1=CC=CC=C1 | C16H19BrN2O
